US08957070B2
4-Fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (0.41 g), Lawesson's reagent (0.50 g) and tetrahydrofuran (40 mL) was stirred at 60° C. for 3 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=2:8-4:6) to give the title compound (0.25 g, yield 59%) as pale-yellow crystals.

reactant | 4-fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.41 g | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C(=O)N | C16H16FN3O4S2
reactant | Lawesson's reagent | 0.50 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-Fluoro-1-(methoxymethyl)-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.25 g, yield 59% | FC1=C2C=C(N(C2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)COC)C(N)=S | C16H16FN3O3S3
